US03968213
2-(m-Acetamidophenyl)-4-hydroxy-5-carboxypyrimidine (II; Ar = p-CH3CONHC6H4 and m = 0)
The crude residual 2-(m-aminophenyl)-4-hydroxy-5-carbethoxypyrimidine is heated for 4.5 hrs. in 150 ml. of ethanol containing 1.12 g. (0.02 mole) of potassium hydroxide and 25 ml. of water. The mixture is concentrated under reduced pressure to a small volume and sufficient 6N hydrochloric acid added such that the aqueous phase is just acid to Congo red paper. The resulting solid, 2-(m-aminophenyl-4-hydroxy-5-carboxypyrimidine, is filtered and dried.

reactant | 2-(m-aminophenyl)-4-hydroxy-5-carbethoxypyrimidine | NC=1C=C(C=CC1)C1=NC=C(C(=N1)O)C(=O)OCC | C13H13N3O3
reactant | ethanol | 1.12 g | C(C)O | C2H6O
reactant | potassium hydroxide | 0.02 mole | [OH-].[K+]
solvent | water | O | H2O
product | 2-(m-Acetamidophenyl)-4-hydroxy-5-carboxypyrimidine | C(C)(=O)NC=1C=C(C=CC1)C1=NC=C(C(=N1)O)C(=O)O | C13H11N3O4
